US06949542B2
8-(2-Fluoro-phenyl)-4-[3-(6-methoxy-pyridazin-3-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2′-fluoro-3-{3-[3-(6-methoxy-pyridazin-3-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic acid tert-butyl ester (Example M37) (308 mg, 0.55 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (178 mg).

reactant | (2′-fluoro-3-{3-[3-(6-methoxy-pyridazin-3-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic acid tert-butyl ester | 0.55 mmol, 308 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)C=1N=NC(=CC1)OC)=O)=O | C31H29FN4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(2-Fluoro-phenyl)-4-[3-(6-methoxy-pyridazin-3-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | FC1=C(C=CC=C1)C=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2N=NC(=CC2)OC)=O)C1 | C26H19FN4O2
